US07700628B2
Preparation of N-(1,3-Dimethylpyrazol-4-yl)-5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide
Using methods substantially equivalent to those described in Example 118, N-(1,3-dimethylpyrazol-4-yl)-5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide hydrochloride was prepared from 6-fluoro-2-[4-(pyrrolidin-1-yl)-2-(1-methylpiperidin-4-yloxy)phenyl]-4H-3,1-benzoxazin-4-one and 5-amino-1,3-dimethylpyrazole.

reactant | N-(1,3-dimethylpyrazol-4-yl)-5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide hydrochloride | Cl.CN1N=C(C(=C1)NC(C1=C(C=CC(=C1)F)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O)=O)C
reactant | 6-fluoro-2-[4-(pyrrolidin-1-yl)-2-(1-methylpiperidin-4-yloxy)phenyl]-4H-3,1-benzoxazin-4-one | FC=1C=CC2=C(C(OC(=N2)C2=C(C=C(C=C2)N2CCCC2)OC2CCN(CC2)C)=O)C1 | C24H26FN3O3
reactant | 5-amino-1,3-dimethylpyrazole | NC1=CC(=NN1C)C | C5H9N3
product | N-(1,3-Dimethylpyrazol-4-yl)-5-fluoro-2-[2-(1-methylpiperidin-4-yloxy)-4-(pyrrolidin-1-yl)benzoylamino]benzamide | CN1N=C(C(=C1)NC(C1=C(C=CC(=C1)F)NC(C1=C(C=C(C=C1)N1CCCC1)OC1CCN(CC1)C)=O)=O)C | C29H35FN6O3
